US05283244
In DMF, 1 g of 6-fluoro-7-nitroquinoxaline-2,3-(1H,4H)-dione and 1.8 g of 2-methylimidazole were stirred with heating at 130° C. for 8 hours. The reaction mixture was then concentrated and diluted with water, whereupon crystals separated out. The crystals were recrystallized from DMF-water to provide 540 mg of 6-(2-methylimidazolyl)-7-nitroquinoxaline-2,3-(1H,4H)-dione.

reactant | 6-fluoro-7-nitroquinoxaline-2,3-(1H,4H)-dione | 1 g | FC=1C=C2NC(C(NC2=CC1[N+](=O)[O-])=O)=O | C8H4FN3O4
reactant | 2-methylimidazole | 1.8 g | CC=1NC=CN1 | C4H6N2
solvent | DMF | CN(C)C=O | C3H7NO
product | 6-(2-methylimidazolyl)-7-nitroquinoxaline-2,3-(1H,4H)-dione | 540 mg | CC=1NC=C(N1)C=1C=C2NC(C(NC2=CC1[N+](=O)[O-])=O)=O | C12H9N5O4
